### PR TITLE
feat: Multiset lemmas

### PR DESCRIPTION
**Pull request by seebees**
A few lemmas with multisets that are useful.

### CODE REVIEW

File: src/Collections/Sequences/Seq.dfy [hunk 1]
```diff
@@ -766,4 +766,43 @@ module Seq {
...
+  }
+
+  /* Every item in the parts to be flattend
+   * is in the flattened seq.
+   */
+  lemma LemmaFlattenMembership<T>(parts: seq<seq<T>>, flat: seq<T>)
+    requires Flatten(parts) == flat
+    ensures forall index
+    | 0 <= index < |parts|
+    :: multiset(parts[index]) <= multiset(flat)
```
Comment (robin-aws) [inline src/Collections/Sequences/Seq.dfy:792]:
```suggestion
    ensures forall index | 0 <= index < |parts|
      :: multiset(parts[index]) <= multiset(flat)
```

Easier to read this way I find. And can we likewise indent the other `::` lines below?

File: src/Collections/Sequences/Seq.dfy.expect [hunk 2]
```diff
@@ -1,2 +1,2 @@
 
-Dafny program verifier finished with 71 verified, 0 errors
+Dafny program verifier finished with 73 verified, 0 errors
```
Comment (robin-aws) [inline src/Collections/Sequences/Seq.dfy.expect:2]:
```suggestion
Dafny program verifier finished with 74 verified, 0 errors
```

File: src/Collections/Multiset/Multiset.dfy [hunk 3]
```diff
@@ -0,0 +1,46 @@
...
+
+  /* converts a multiset to a set */
+  function method {:opaque} ToSet<T>(s: multiset<T>): set<T> 
+  {
+    set x: T | x in s
+  }
+
+  /* proves that the cardinality of a multiset is always more than or equal to that
+  of the conversion to a set */
+  lemma LemmaCardinalityOfSetBound<T>(m: multiset<T>)
```
Comment (robin-aws) [inline src/Collections/Multiset/Multiset.dfy:19]:
```suggestion
  lemma LemmaCardinalityOfToSetBound<T>(m: multiset<T>)
```

?

File: src/Collections/Sequences/Seq.dfy (hunk 1 above)
Comment (seebees) [reply src/Collections/Sequences/Seq.dfy:792]: I can.  However the reason I left it like that is because of logical chaining.
If you want to say lots of things in either `|` or `::` you end up with lots more white space.

```dafny
predicate Foo(s: seq<int>)
  ensures forall index
  |
    && 0 <= index < |s|
    && magic(s)
    && other(index)
  ::
    && multiset(s[index]) <= multiset(index)
    && things(multiset(s))
    && toProve(index)
{}
```
The reason I like the above, is that it is clear that `|` and `::` fold up the the `ensures` clause.
Much like the `else` lines up with the `if`

```dafny
if condition then
  doWork()
else
  otherWork()
```

Comment (robin-aws) [reply src/Collections/Sequences/Seq.dfy:792]: That's fair. I'm not convinced I'd want the multi-line formatting for ALL quantifications, even really simple and short ones, but we can argue about that when we get to the auto-formatter :)

**Comment by RustanLeino** [comment]
It seems the only thing stopping an acceptance here is the formatting. For the code that goes into these `libraries`, we should follow the Dafny style guides.
